US07612114B2
(R)-6-{2-{[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) and 2-chloro-1-piperidin-1-ylethanone (11 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (7.2 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | FC=1C=C(C(=O)N(C2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=CC1O | C32H36FNO5
reactant | 2-chloro-1-piperidin-1-ylethanone | 11 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
product | (R)-6-{2-{[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 7.2 mg | FC=1C=C(CN(C2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C(C)C)C=CC1OCCN1CCCCC1 | C34H43FN2O3
